US07935699B2
(R)-2-(3-Chloro-4-methanesulfonyl-phenyl)-3-((S)-3,3-difluoro-cyclopentyl)-propionic acid methyl ester (224 mg, 0.59 mmol) was dissolved in ethanol (8 mL) and treated with a solution of lithium hydroxide monohydrate (62 mg, 1.47 mmol) in water (2 mL) at 25° C. It was stirred at 25° C. until the starting material was all consumed by TLC (˜1 hr). The reaction was then concentrated in vacuo to remove the ethanol. The remaining aqueous layer was then acidified to pH=2 with an aqueous 1N hydrochloric acid solution. This was then extracted with ethyl acetate (3×20 mL), the organic layers combined and dried over magnesium sulfate, filtered and concentrated in vacuo to afford 2-(3-chloro-4-methanesulfonyl-phenyl)-3-((S)-3,3-difluoro-cyclopentyl)-propionic acid (210 mg, 97%) as a mixture of two diastereomers as a clear colorless oil.

reactant | (R)-2-(3-Chloro-4-methanesulfonyl-phenyl)-3-((S)-3,3-difluoro-cyclopentyl)-propionic acid methyl ester | 0.59 mmol, 224 mg | COC([C@H](C[C@H]1CC(CC1)(F)F)C1=CC(=C(C=C1)S(=O)(=O)C)Cl)=O | C16H19ClF2O4S
reactant | lithium hydroxide monohydrate | 1.47 mmol, 62 mg | O.[OH-].[Li+]
solvent | ethanol | 8 mL | C(C)O | C2H6O
solvent | water | 2 mL | O | H2O
product | 2-(3-chloro-4-methanesulfonyl-phenyl)-3-((S)-3,3-difluoro-cyclopentyl)-propionic acid | 210 mg, 97% | ClC=1C=C(C=CC1S(=O)(=O)C)C(C(=O)O)C[C@H]1CC(CC1)(F)F | C15H17ClF2O4S
